US09120749B2
1-(6-Bromo-4-{4-[(dimethylamino)methyl]piperidin-1-yl}quinolin-3-yl)ethanone
Following general procedure B, 1-(6-bromo-4-chloroquinolin-3-yl)ethanone (160 mg, 0.560 mmol) was reacted with N,N-dimethyl-1-(piperidin-4-yl)methanamine (172 mg, 0.800 mmol) to afford the desired product (17.7 mg, 8%) as an off-white solid: ESI MS m/z 390 [C19H24BrN3O+H]+.

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)ethanone | 0.560 mmol, 160 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)Cl | C11H7BrClNO
reactant | N,N-dimethyl-1-(piperidin-4-yl)methanamine | 0.800 mmol, 172 mg | CN(CC1CCNCC1)C | C8H18N2
product | 1-(6-Bromo-4-{4-[(dimethylamino)methyl]piperidin-1-yl}quinolin-3-yl)ethanone | 17.7 mg, 8% | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)N1CCC(CC1)CN(C)C | C19H24BrN3O
